US05300509
A mixture of 4,6-dihydroxy-5-(2-furanylcarbonyl)amino-2-[(4-methoxyphenyl)ethyl]aminopyrimidine (408 mg) and phosphorus oxychloride (5 ml) was heated at 90° C. for 3 hours. The excess phosphorus oxychloride was removed by evaporation, in vacuo, and then by azeotroping with toluene (2×50 ml). The residue was added to water and the resultant precipitate filtered off, washed with water and dried. There was thus produced 7-chloro-2-(2-furyl)-5-[2-(4-methoxyphenyl)ethyl]amino oxazolo[5,4-d]pyrimidine (340 mg, 83.2% yield); m.p. 169.5°-171° C.: NMR:DMSO-d6 : 2.80(t, 2H, ArCH2), 3.48(q, 2H, CH2NH), 3.72(s, 3H, OMe), 6.80(m, 1H, furyl-H), 6.85(d, 2H, ArH), 7.16(d, 2H, ArH), 7.44(d, 1H, furyl-H), 8.07(m, 1H, furyl-H), 8.13(brs, 1H, NH).

reactant | 4,6-dihydroxy-5-(2-furanylcarbonyl)amino-2-[(4-methoxyphenyl)ethyl]aminopyrimidine | 408 mg | OC1=NC(=NC(=C1NC(=O)C=1OC=CC1)O)NCCC1=CC=C(C=C1)OC | C18H18N4O5
reactant | phosphorus oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-2-(2-furyl)-5-[2-(4-methoxyphenyl)ethyl]amino oxazolo[5,4-d]pyrimidine | 340 mg, 83.2% yield | ClC=1C2=C(N=C(N1)NCCC1=CC=C(C=C1)OC)OC(=N2)C=2OC=CC2 | C18H15ClN4O3
